US07494992B2
Preparation 99: 1-acetyl-4-{[(4-chlorophenyl)methyl]oxy}piperidine
1-Acetylpiperidin-4-ol (Preparation 193, 10 g, 70 mmol) in N,N-dimethylformamide (50 ml) was added dropwise to a stirred suspension of sodium hydride (50% wt dispersion in oil, 4.8 g, 0.1 mol) in N,N-dimethylformamide (50 ml) at room temperature under nitrogen. After stirring the reaction mixture for 3 hours, 4-chlorobenzyl chloride (12.8 g, 80 mmol) in N,N-dimethylformamide (50 ml) was added dropwise and the reaction mixture was stirred for a further 4 h. The solution was filtered and the filtrate was evaporated to give an orange oil. Water was added and the mixture was extracted with petroleum ether (3×50 ml) and then with diethyl ether (3×50 ml). The combined organic extracts were dried (Na2SO4) and concentrated to give the title compound as an orange oil (15.8 g, 84%).

reactant | 1-Acetylpiperidin-4-ol | 70 mmol, 10 g | C(C)(=O)N1CCC(CC1)O | C7H13NO2
reactant | sodium hydride | 0.1 mol, 4.8 g | [H-].[Na+]
reactant | 4-chlorobenzyl chloride | 80 mmol, 12.8 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-acetyl-4-{[(4-chlorophenyl)methyl]oxy}piperidine | 15.8 g, 84% | C(C)(=O)N1CCC(CC1)OCC1=CC=C(C=C1)Cl | C14H18ClNO2
